** sch_path: /mnt/c/Users/NITHIN P/2stageopamptry.sch

.lib /home/pham/shared_files/sky130_pdk/libs.tech/ngspice/sky130.lib.spice tt


XMN1 net1 minus net2 VSS sky130_fd_pr__nfet_01v8 L=0.5 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMN2 vdiffout plus net2 VSS sky130_fd_pr__nfet_01v8 L=0.5 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMN3 net2 net3 VSS VSS sky130_fd_pr__nfet_01v8 L=0.5 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMN4 net3 net3 VSS VSS sky130_fd_pr__nfet_01v8 L=0.5 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMN5 vout net3 VSS VSS sky130_fd_pr__nfet_01v8 L=0.5 W=6.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMP1 net1 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMP2 vdiffout net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMP3 vout vdiffout VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=17 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1


I0 VDD net3 30u
C1 vdiffout vout 3p m=1
C2 vout VSS 2p m=1
V1 VDD GND 1.8
V2 VSS GND -1.8
V4 net4 minus 0 AC 1
V5 plus net4 0 AC 1
V3 net4 GND 1.2



.ac dec 10 1 10G

.control
    run
    set units=degrees
    set wr_vecnames
    option numdgt=7
    wrdata ac.csv v(vout)
    op
    wrdata dc.csv i(V1)

    set filetype=ascii
.endc

.GLOBAL GND
.end